US07589076B2
2-{3-[1-((4-Fluorophenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine.
Batch: AB-9-147. 4-fluorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate, batch JR28-97 (0.700 g, 2.68 mmol) was added to a solution of 2-iodoadenosine (0.812 g, 2.065 mmol) according to general procedure 2. Yield: 0.902 g, 83%. 1H NMR (CD3OD) δ 8.34 (s, 1H), 7.11 (m, 4H), 5.98 (d, 1H), 4.76 (m, 2H), 4.37-4.19 (2×m, 3H), 3.95-3.75 (2×d, 2H), 3.07-2.93 (2×bt, 4H), 2.47 (d, 5H), 1.98-1.44 (2×m, SH). m/z MH+=527.19. HPLC rt=7.6 min.

reactant | 4-fluorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC=C(C=C1)F | C15H16FNO2
reactant | 2-iodoadenosine | 2.065 mmol, 0.812 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((4-Fluorophenoxy)carbonyl)piperidin-4-yl]propyn-1-yl}adenosine | FC1=CC=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=C1 | C25H27FN6O6
